US04038409
1-[2,4-dichloro-β-(n-pentylcarbonyloxy)phenethyl]imidazole;
1-[2,4-dichloro-β-(n-heptylcarbonyloxy)phenethyl]imidazole, as nitrate mp 99°-100.5° C.

reactant | 1-[2,4-dichloro-β-(n-heptylcarbonyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OC(=O)CCCCCCC)C=CC(=C1)Cl | C19H24Cl2N2O2
reactant | nitrate | [N+](=O)([O-])[O-]
product | 1-[2,4-dichloro-β-(n-pentylcarbonyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OC(=O)CCCCC)C=CC(=C1)Cl | C17H20Cl2N2O2
